US09120749B2
1-(4-(6-(3-aminopyrrolidin-1-yl)pyridin-3-ylamino)-6-(3-chloro-5-fluoro-4-hydroxyphenyl)quinolin-3-yl)ethanone
Following general procedure D, tert-butyl 1-(5-(3-acetyl-6-bromoquinolin-4-ylamino) pyridin-2-yl)pyrrolidin-3-ylcarbamate (100 mg, 0.19 mmol) was reacted with 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (76 mg, 0.28 mmol) to obtain the protected intermediate which was subjected to general procedure A-2 to afford the desired product (13 mg, 16% over two steps) as a yellow solid: 1H NMR (500 MHz, CD3OD+TFA-d) δ 9.29 (s, 1H), 8.29-8.20 (m, 2H), 8.05-7.99 (m, 2H), 7.84 (dd, J=9.2, 2.6 Hz, 1H), 7.15 (d, J=11.6 Hz, 1H), 7.07 (s, 1H), 7.00 (d, J=9.2 Hz, 1H), 4.17-4.09 (m, 1H), 4.07-4.00 (m, 1H), 3.90-3.81 (m, 1H), 3.80-3.71 (m, 2H), 2.79 (s, 3H), 2.65-2.52 (m, 1H), 2.36-2.25 (m, 1H); ESI MS m/z 492 [C26H23ClFN5O2+H]+; HPLC 97.6% (AUC), tR=9.73 min.

reactant | tert-butyl 1-(5-(3-acetyl-6-bromoquinolin-4-ylamino) pyridin-2-yl)pyrrolidin-3-ylcarbamate | 0.19 mmol, 100 mg | C(C)(=O)C=1C=NC2=CC=C(C=C2C1NC=1C=CC(=NC1)N1CC(CC1)NC(OC(C)(C)C)=O)Br | C25H28BrN5O3
reactant | 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.28 mmol, 76 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BClFO3
product | 1-(4-(6-(3-aminopyrrolidin-1-yl)pyridin-3-ylamino)-6-(3-chloro-5-fluoro-4-hydroxyphenyl)quinolin-3-yl)ethanone | 13 mg, 16% | NC1CN(CC1)C1=CC=C(C=N1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)F)O)Cl)C(C)=O | C26H23ClFN5O2
